US04198526
A stirred mixture of sodium p-hydroxymandelate monohydrate (21.2 g.), potassium hypophosphite (52 g.), 50% w/v aqueous hypophosphorous acid (2.2. ml.) and water (10 ml.) is heated under reflux for 22 hours (internal temperature 143° C.) and then cooled. The mixture is diluted with water, acidified with hydrochloric acid and extracted with methyl isobutyl ketone. p-Hydroxyphenylacetic acid, which is formed in 67% yield, is isolated from the extract by conventional means.

reactant | sodium p-hydroxymandelate monohydrate | 21.2 g | O.OC1=CC=C(C(C(=O)[O-])O)C=C1.[Na+]
reactant | potassium hypophosphite | 52 g | [PH2](=O)[O-].[K+]
reactant | hypophosphorous acid | [PH2](=O)O | H3O2P
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | water | 10 ml | O | H2O
product | p-Hydroxyphenylacetic acid | 67% yield | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
